US08497397B2
(6a) 1-Bromo-4-(2-chloroethoxy)benzene
With reference to the document (J. Org. Chem., (2002), 67, 1093-1101), potassium carbonate (83.0 g, 600 mmol) was added to a solution of DMF (500 mL) containing 4-bromophenol (50.4 g, 291 mmol) at room temperature. The mixture was stirred at the same temperature for 30 minutes, and then 2-chloroethyl 4-methylbenzenesulfonate (70.2 g, 299 mmol) was added thereto. The mixture was stirred at 50° C. for 24 hours. The reaction solution was cooled to 10° C., and water (500 mL) was added thereto to precipitate a white solid. This white solid was collected by filtration, washed with water (500 mL), and dried at 50° C. under reduced pressure to give 58.6 g of the title compound (yield: 86%).

reactant | potassium carbonate | 600 mmol, 83.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 500 mL | CN(C)C=O | C3H7NO
reactant | 4-bromophenol | 291 mmol, 50.4 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 2-chloroethyl 4-methylbenzenesulfonate | 299 mmol, 70.2 g | CC1=CC=C(C=C1)S(=O)(=O)OCCCl | C9H11ClO3S
solvent | water | 500 mL | O | H2O
product | 1-Bromo-4-(2-chloroethoxy)benzene | 58.6 g, yield: 86% | BrC1=CC=C(C=C1)OCCCl | C8H8BrClO
